US08334295B2
3-Methoxy-5-methyl-benzonitrile:
In a 100 mL round bottom flask, 1-bromo-3-methoxy-5-methyl-benzene (2.17 g, 10.79 mmol), Zn(CN)2 (1.9 g, 16.19 mmol, 1.5 eq.) and Pd(PPh3)4 (1.24 g, 1.08 mmol, 0.1 eq.) was charged with DMF (20 mL). The reaction mixture was heated at 90° C. under Ar for 7 hours. Ethyl acetate was added, followed by washing with brine. The organic layer was concentrated and purified (silica gel, 0-50% EtOAC/hexane) to give a white solid (1.31 g, 83%). 1H NMR (300 MHz, CDCl3): δ 7.05 (s, 1H), 6.97 (s, 2H), 3.81 (s, 3H), 2.39 (s, 3H).

reactant | 1-bromo-3-methoxy-5-methyl-benzene | 10.79 mmol, 2.17 g | BrC1=CC(=CC(=C1)C)OC | C8H9BrO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 16.19 mmol, 1.9 g, 1.5 eq. | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 1.08 mmol, 1.24 g, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Methoxy-5-methyl-benzonitrile | 1.31 g, 83% | COC=1C=C(C#N)C=C(C1)C | C9H9NO
